US08202858B2
4-(4-Bromo-butoxy)-3-fluoro-benzoic Acid Ethyl Ester
1,4-Dibromobutane (2.34 g, 10.8 mmol), potassium carbon-ate (1.86 g, 13.5 mmol) and potassium iodide (90 mg, 0.5 mmol) were added to a solution of 3-fluoro-4-hydroxy-benzoic acid ethyl ester from Example E27 (11.0 g, 5.4 mmol) in acetone (25 ml) and the mixture was heated at reflux for 20 h. The solid was filtered off, washed with EtOAc and the filtrate was concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 15% EtOAc:85% hexane) to yield the title compound (1.38 g, 80%).

reactant | 1,4-Dibromobutane | 10.8 mmol, 2.34 g | BrCCCCBr | C4H8Br2
reactant | potassium carbon-ate | 13.5 mmol, 1.86 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 mmol, 90 mg | [I-].[K+]
reactant | 3-fluoro-4-hydroxy-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)O)F)=O | C9H9FO3
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 4-(4-Bromo-butoxy)-3-fluoro-benzoic Acid Ethyl Ester | 1.38 g, 80% | C(C)OC(C1=CC(=C(C=C1)OCCCCBr)F)=O | C13H16BrFO3
